US08207178B2
Step F: tert-butyl 4-(4-bromo-2,6-dimethylphenoxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-yl(4-cyanophenyl)carbamate
To a cold mixture of tert-butyl 4-(4-bromo-2,6-dimethylphenoxy)-5H-pyrrolo[3,2-d]pyrimidin-2-yl(4-cyanophenyl)carbamate (0.81 g, 1.5 mmol) in THF (5 ml) at −78° C. was added a solution of LiHMDS (1 M, 2 ml, 2 mmol). The mixture was warmed to 0° C. over 2 hours and then was cooled to −78° C. Idomethane (0.37 ml, 6 mmol) was added and the mixture was warmed to room temperature over 2 hours and then stirred at this temperature for an additional 2 hours. The mixture was washed with brine, extracted with ethyl acetate (×3). The organic layers were combined dried over MgSO4 and concentrated to dryness. The crude material was purified by chromatography on silica to obtain the title compound (0.782 g, 1.42 mmol, 95%). 1H NMR (CDCl3, 400 MHz) δ 1.32 (s, 9H), 2.07 (s, 6H), 4.18 (s, 3H), 6.65 (d, J=3.8 Hz, 1H), 7.15 (d, J=8.8 Hz, 2H), 7.21 (s, 2H), 7.37 (d, J=3.8 Hz, 1H), 7.49 (d, J=8.8, 2H).

reactant | tert-butyl 4-(4-bromo-2,6-dimethylphenoxy)-5H-pyrrolo[3,2-d]pyrimidin-2-yl(4-cyanophenyl)carbamate | 1.5 mmol, 0.81 g | BrC1=CC(=C(OC=2C3=C(N=C(N2)N(C(OC(C)(C)C)=O)C2=CC=C(C=C2)C#N)C=CN3)C(=C1)C)C | C26H24BrN5O3
reactant | LiHMDS | 2 mmol, 1 M, 2 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(4-bromo-2,6-dimethylphenoxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-yl(4-cyanophenyl)carbamate | 1.42 mmol, 0.782 g, 95% | BrC1=CC(=C(OC=2C3=C(N=C(N2)N(C(OC(C)(C)C)=O)C2=CC=C(C=C2)C#N)C=CN3C)C(=C1)C)C | C27H26BrN5O3
